US06858739B2
4-{[5-(5,6-Difluoro-1H-indol-2-yl)-2-methoxy-phenylamino]-methyl}-benzoic acid methyl ester
Methyl 4-formylbenzoate (0.21 g, 1.28 mmol) was added to a stirred mixture of 5-(5,6-difluoro-1H-indol-2-yl)-2-methoxy-phenylamine (0.34 g, 1.24 mmol) in methylene chloride (125 mL), followed by acetic acid (0.3 g, 3.33 mmol). The resulting mixture was stirred at room temperature for 1 hour. Sodium triacetoxyborohydride (0.3 g, 1.42 mmol) was added in one portion, and the resulting homogeneous solution stirred at room temperature for 4 days. Saturated aqueous sodium bicarbonate solution (100 mL) was added and the mixture stirred for 2 hours. The mixture was shaken, the organic layer separated, and dried over Na2SO4. The solvent was evaporated to give a brown gum. Recrystallization from methanol gave the product as off-white crystals (140 mg), mp 168-170° C.

reactant | Methyl 4-formylbenzoate | 1.28 mmol, 0.21 g | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | 5-(5,6-difluoro-1H-indol-2-yl)-2-methoxy-phenylamine | 1.24 mmol, 0.34 g | FC=1C=C2C=C(NC2=CC1F)C=1C=CC(=C(C1)N)OC | C15H12F2N2O
reactant | acetic acid | 3.33 mmol, 0.3 g | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 1.42 mmol, 0.3 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 125 mL | C(Cl)Cl | CH2Cl2
product | 4-{[5-(5,6-Difluoro-1H-indol-2-yl)-2-methoxy-phenylamino]-methyl}-benzoic acid methyl ester | 140 mg | COC(C1=CC=C(C=C1)CNC1=C(C=CC(=C1)C=1NC2=CC(=C(C=C2C1)F)F)OC)=O | C24H20F2N2O3
